US07691877B2
4-Amino-1-benzyl-6-methyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one
1-Benzyl-4-dibenzylamino-6-methyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one (34 mg, 0.08 mmol) was suspended in ethanol (5 mL) and hydrogenated over 10% Pd(OH)2 (7 mg) at room temperature, 60 psi for 6 hours. The reaction mixture was filtered through a short plug of Arbocel and the filtrate was then evaporated in vacuo to an opaque gum. The gum was dissolved in methanol and preabsorbed onto silica gel and was then purified by column chromatography, eluting with 5% methanol in EtOAc. Appropriate fractions were combined and evaporated in vacuo to give the title compound as a white solid, 7 mg.

reactant | 1-Benzyl-4-dibenzylamino-6-methyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 0.08 mmol, 34 mg | C(C1=CC=CC=C1)N1C(NC=2C(=NC(=CC21)C)N(CC2=CC=CC=C2)CC2=CC=CC=C2)=O | C28H26N4O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd(OH)2 | 7 mg | [OH-].[OH-].[Pd+2]
product | 4-Amino-1-benzyl-6-methyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | NC1=NC(=CC2=C1NC(N2CC2=CC=CC=C2)=O)C | C14H14N4O
